US07943619B2
j) 6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid
As described for example 112a, 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (616 mg, 1.8 mmol) was converted, instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, to the title compound (520 mg, 92%) which was obtained as a white solid. MS: m/e=312.3 [M−H]−.

reactant | 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 1.8 mmol, 616 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=NC=C1 | C16H15N5O4
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 520 mg, 92% | CC1=C(C(=NO1)C1=NC=NC=C1)COC1=CC=C(N=N1)C(=O)O | C14H11N5O4
